Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
Br[CH2:1][C:2]([O:3][C:4]([CH3:5])([CH3:6])[CH3:7])=[O:8].[CH3:9][O:10][C:11](=[O:12])[c:13]1[cH:14][c:15](-[c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)[c:22]([OH:23])[c:24](-[c:25]2[cH:26][cH:27][cH:28][cH:29][cH:30]2)[cH:31]1>>[CH2:1]([C:2]([O:3][C:4]([CH3:5])([CH3:6])[CH3:7])=[O:8])[O:23][c:22]1[c:15](-[c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)[cH:14][c:13]([C:11]([O:10][CH3:9])=[O:12])[cH:31][c:24]1-[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1,[CH3:9][O:10][C:11](=[O:12])[c:13]1[cH:14][c:15](-[c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)[c:22]([OH:23])[c:24](-[c:25]2[cH:26][cH:27][cH:28][cH:29][cH:30]2)[cH:31]1.[Br:101][CH2:1][C:2]([O:3][C:4]([CH3:5])([CH3:6])[CH3:7])=[O:8].[H-:301].[Na+]>>[CH2:1]([C:2]([O:3][C:4]([CH3:5])([CH3:6])[CH3:7])=[O:8])[O:23][c:22]1[c:15](-[c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)[cH:14][c:13]([C:11]([O:10][CH3:9])=[O:12])[cH:31][c:24]1-[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1,SN2_alcohol(thiol),"[(301, 23.1), ([23.1, 23], 23), (23, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
F[c:1]1[cH:2][c:3]([O:4][CH3:5])[c:6]([N+:7](=[O:8])[O-:9])[cH:10][c:11]1[C:12]#[N:13].[CH3:14][C:15](=[O:16])[N:17]1[CH2:18][CH2:19][NH:20][CH2:21][CH2:22]1>>[c:1]1([N:20]2[CH2:19][CH2:18][N:17]([C:15]([CH3:14])=[O:16])[CH2:22][CH2:21]2)[cH:2][c:3]([O:4][CH3:5])[c:6]([N+:7](=[O:8])[O-:9])[cH:10][c:11]1[C:12]#[N:13],[F:101][c:1]1[cH:2][c:3]([O:4][CH3:5])[c:6]([N+:7](=[O:8])[OH:9])[cH:10][c:11]1[C:12]#[N:13].[CH3:14][C:15](=[O:16])[N:17]1[CH2:18][CH2:19][NH:20][CH2:21][CH2:22]1>>[c:1]1([N:20]2[CH2:19][CH2:18][N:17]([C:15]([CH3:14])=[O:16])[CH2:22][CH2:21]2)[cH:2][c:3]([O:4][CH3:5])[c:6]([N+:7](=[O:8])[OH:9])[cH:10][c:11]1[C:12]#[N:13],SNAr(para),"[(20, 1), ([1, 11], [11, 10]), ([10, 6], [6, 7]), ([7, 8], 8), (8, [8, 7]), ([7, 6], [6, 10]), ([10, 11], [11, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Br[CH2:1][c:2]1[cH:3][cH:4][c:5]2[n:6][o:7][n:8][c:9]2[cH:10]1.[O:11]=[N+:12]([O-:13])[c:14]1[cH:15][cH:16][c:17]([NH:18][n:19]2[cH:20][n:21][cH:22][n:23]2)[cH:24][cH:25]1>>[CH2:1]([c:2]1[cH:3][cH:4][c:5]2[n:6][o:7][n:8][c:9]2[cH:10]1)[N:18]([c:17]1[cH:16][cH:15][c:14]([N+:12](=[O:11])[O-:13])[cH:25][cH:24]1)[n:19]1[cH:20][n:21][cH:22][n:23]1,[O:11]=[N+:12]([OH:13])[c:14]1[cH:15][cH:16][c:17]([NH:18][n:19]2[cH:20][n:21][cH:22][n:23]2)[cH:24][cH:25]1.[Br:101][CH2:1][c:2]1[cH:3][cH:4][c:5]2[n:6][o:7][n:8][c:9]2[cH:10]1>>[CH2:1]([c:2]1[cH:3][cH:4][c:5]2[n:6][o:7][n:8][c:9]2[cH:10]1)[N:18]([c:17]1[cH:16][cH:15][c:14]([N+:12](=[O:11])[OH:13])[cH:25][cH:24]1)[n:19]1[cH:20][n:21][cH:22][n:23]1,SN2,"[(18, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[C:1]([CH:2]([CH2:3][C:4]([O:5][CH3:6])=[O:7])[C:8](=O)[c:9]1[cH:10][cH:11][cH:12][c:13]([Cl:14])[cH:15]1)[CH3:16].[NH2:17][NH:18][c:19]1[cH:20][cH:21][cH:22][n:23][cH:24]1>>[c:1]1([CH3:16])[c:2]([CH2:3][C:4]([O:5][CH3:6])=[O:7])[c:8](-[c:9]2[cH:10][cH:11][cH:12][c:13]([Cl:14])[cH:15]2)[n:18](-[c:19]2[cH:20][cH:21][cH:22][n:23][cH:24]2)[n:17]1,[O:101]=[C:1]([CH:2]([CH2:3][C:4]([O:5][CH3:6])=[O:7])[C:8](=[O:102])[c:9]1[cH:10][cH:11][cH:12][c:13]([Cl:14])[cH:15]1)[CH3:16].[NH2:17][NH:18][c:19]1[cH:20][cH:21][cH:22][n:23][cH:24]1.[H+:301].[H+:302]>>[c:1]1([CH3:16])[c:2]([CH2:3][C:4]([O:5][CH3:6])=[O:7])[c:8](-[c:9]2[cH:10][cH:11][cH:12][c:13]([Cl:14])[cH:15]2)[n:18](-[c:19]2[cH:20][cH:21][cH:22][n:23][cH:24]2)[n:17]1,Knorr_pyrazole_synthesis,"[(18, 8), ([8, 102], 301), (102, 18.1), ([18.1, 18], 18), (18, [18, 8]), ([8, 102], 102), (17, 1), ([1, 101], 302), (101, 17.1), ([17.1, 17], 17), (17, [17, 1]), ([1, 101], 101), ([2.1, 2], [2, 1]), ([1, 17], 17)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[CH2:1].[CH3:2][c:3]1[c:4]2[cH:5][cH:6][c:7]([NH2:8])[cH:9][c:10]2[n:11][n:12]1[CH3:13]>>[CH3:1][NH:8][c:7]1[cH:6][cH:5][c:4]2[c:3]([CH3:2])[n:12]([CH3:13])[n:11][c:10]2[cH:9]1,[CH3:2][c:3]1[c:4]2[cH:5][cH:6][c:7]([NH2:8])[cH:9][c:10]2[n:11][n:12]1[CH3:13].[O:101]=[CH2:1].[H+:301].[BH3-:302]C#N.[Na+]>>[CH3:1][NH:8][c:7]1[cH:6][cH:5][c:4]2[c:3]([CH3:2])[n:12]([CH3:13])[n:11][c:10]2[cH:9]1,reductive_amination,"[(8, 1), ([1, 101], 301), (101, 8.1), ([8.1, 8], 8), (8, [8, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 8], 8)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
